US08247610B2
a) 4-Methyl-2-[-5-(3,4-dihydroisoquinolin-2(1H)-yl)-4′-(trifluoromethyl)biphenyl-3-yl]-pentanoic acid methyl ester
The title compound was prepared in 85% yield from 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid methyl ester and tetrahydroisoquinoline under the conditions described in Example 24, step (a).

reactant | 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C21H20F6O5S
reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 4-Methyl-2-[-5-(3,4-dihydroisoquinolin-2(1H)-yl)-4′-(trifluoromethyl)biphenyl-3-yl]-pentanoic acid methyl ester | 85% yield | COC(C(CC(C)C)C=1C=C(C=C(C1)N1CC2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C29H30F3NO2
